US08623859B2
N-{2-[4-(4,5-Dihydro-1H-imidazol-2-yl)phenyl]ethyl}-5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-N-methyl-1,3,4-oxadiazole-2-carboxamide
The title compound was prepared according to general procedure AT using methyl 5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-1,3,4-oxadiazole-2-carboxylate (50 mg, 0.135 mmol), 2-[4-(4,5-dihydro-1H-imidazol-2-yl)phenyl]-N-methylethanamine (110 mg, 0.54 mmol) and trimethylaluminium (2 M in toluene, 0.27 mL) in DCM (10 mL). A portion of the crude product was purified using prep method A, then prep method B.

reactant | methyl 5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-1,3,4-oxadiazole-2-carboxylate | 0.135 mmol, 50 mg | COC1=CC(=C(C(=C1)C)S(=O)(=O)N(C)CC1=NN=C(O1)C(=O)OC)C | C15H19N3O6S
reactant | 2-[4-(4,5-dihydro-1H-imidazol-2-yl)phenyl]-N-methylethanamine | 0.54 mmol, 110 mg | N1C(=NCC1)C1=CC=C(C=C1)CCNC | C12H17N3
reactant | trimethylaluminium | 2 M, 0.27 mL | C[Al](C)C
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | N-{2-[4-(4,5-Dihydro-1H-imidazol-2-yl)phenyl]ethyl}-5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-N-methyl-1,3,4-oxadiazole-2-carboxamide | N1C(=NCC1)C1=CC=C(C=C1)CCN(C(=O)C=1OC(=NN1)CN(C)S(=O)(=O)C1=C(C=C(C=C1C)OC)C)C | C26H32N6O5S
